US07208524B2
To a stirred solution of 0.203 g of N-[2-(2-benzyloxy-4-isopropylphenyl)ethyl]-5-cyano-2-hydroxybenzenesulfonamide in ethanol was added 0.04 g of 10% palladium on carbon, and the mixture was stirred under a hydrogen atmosphere and ordinary pressure for 3 hours. After the insoluble material was removed by filtration, the filtrate was concentrated under reduced pressure to give 0.143 g of 5-cyano-2-hydroxy-N-[2-(2-hydroxy-4-isopropylphenyl)ethyl]benzenesulfonamide.

reactant | N-[2-(2-benzyloxy-4-isopropylphenyl)ethyl]-5-cyano-2-hydroxybenzenesulfonamide | 0.203 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C(C)C)CCNS(=O)(=O)C1=C(C=CC(=C1)C#N)O | C25H26N2O4S
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium on carbon | 0.04 g | [Pd] | Pd
product | 5-cyano-2-hydroxy-N-[2-(2-hydroxy-4-isopropylphenyl)ethyl]benzenesulfonamide | 0.143 g | C(#N)C=1C=CC(=C(C1)S(=O)(=O)NCCC1=C(C=C(C=C1)C(C)C)O)O | C18H20N2O4S
